US06825353B2
A mixture consisting of 5-amino-6,7-difluoro-1-[(1R,2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid (45 mg, 0.144 mmol), (3S,4R)-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-fluoropyrrolidine (52.8 mg, 0.216 mmol), 1-methylpiperidine (18.5 mg, 0.186 mmol) and dimethyl sulfoxide (1.8 ml) was stirred at an outer temperature of 80° C. for 7 hours. When analysis was carried out by a high performance liquid chromatography after completion of the reaction, formed ratio of the compound of interest 5-amino-7-[(3S,4R)-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-fluoropyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid was 4%. Also, residual ratio of the starting material was 90%.

reactant | 5-amino-6,7-difluoro-1-[(1R,2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | 0.144 mmol, 45 mg | NC1=C2C(C(=CN(C2=C(C(=C1F)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C14H11F3N2O3
reactant | (3S,4R)-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-fluoropyrrolidine | 0.216 mmol, 52.8 mg | C(C)(C)(C)OC(=O)NC1(CC1)[C@@H]1[C@@H](CNC1)F | C12H21FN2O2
reactant | 1-methylpiperidine | 0.186 mmol, 18.5 mg | CN1CCCCC1 | C6H13N
solvent | dimethyl sulfoxide | 1.8 ml | CS(=O)C | C2H6OS
product | 5-amino-7-[(3S,4R)-4-(1-tert-butoxycarbonylaminocyclopropyl)-3-fluoropyrrolidinyl]-6-fluoro-1-[(1R,2S)-2-fluoro-1-cyclopropyl]-1,4-dihydro-8-methyl-4-oxoquinoline-3-carboxylic acid | NC1=C2C(C(=CN(C2=C(C(=C1F)N1C[C@H]([C@H](C1)C1(CC1)NC(=O)OC(C)(C)C)F)C)[C@H]1[C@H](C1)F)C(=O)O)=O | C26H31F3N4O5
